US03939276
Acetic anhydride (2.67 g.) in dichloroethane (10 ml.) was added deopwise to a stirred, cooled (0°) suspension of aluminum chloride (6.95 g.) in dichloroethane (20 ml.). Cooling and stirring were continued during the dropwise addition of a solution of 2-ethylfluorene (4.61 g.) in dichloroethane (50 ml.). The mixture was stirred for one hour at room temperature and then decomposed by the dropwise addition of 2N-hydrochloric acid (40 ml.) to the cooled solution. The organic layer was separated, washed with water and with aqueous sodium bicarbonate, dried over anhydrous sodium sulphate, filtered, and evaporated under reduced pressure. The residue was recrystallised from light petroleum (ca 250 ml., b.p. 60°-80°) to give 2-acetyl-7-ethylfluorene m.p. 120°-122°.

reactant | Acetic anhydride | 2.67 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | aluminum chloride | 6.95 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-ethylfluorene | 4.61 g | C(C)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H14
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 2-acetyl-7-ethylfluorene | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)CC | C17H16O
